US04086334
1-Phosphono-1,2-ethane-dicarboxylic acid can be prepared by reaction of maleic ester (diethyl maleate) with diethyl phosphite in the presence of sodium alcoholate followed by acid saponification of the ester. 2-Phosphono-2,3-propane dicarboxylic acid can be obtained in the same manner with addition of the step of reacting the mixture with methyl chloride before the saponification step.

reactant | 1-Phosphono-1,2-ethane-dicarboxylic acid | P(=O)(O)(O)C(CC(=O)O)C(=O)O | C4H7O7P
reactant | diethyl phosphite | P(OCC)(OCC)[O-]
product | 2-Phosphono-2,3-propane dicarboxylic acid | P(=O)(O)(O)C(C)(CC(=O)O)C(=O)O | C5H9O7P
